US04166119
1.8 g of cyclopropylcarbonyl chloride are added dropwise to a stirred solution at 0° C. of 3.2 g of 2,3-dihydrospiro[benzofuran-2,4'-piperidine] in 50 ml of pyridine. After total addition the reaction is stirred for 60 hours at ambient temperature and then heated at reflux for 3 hours. Thereafter, the reaction mixture is successively permitted to cool to ambient temperature, poured into 500 ml of water, basified with 20% sodium hydroxide and the solvent is removed under reduced pressure. The residue is triturated with 500 ml of water, extracted twice with ethyl acetate and the combined extracts are dried and the solvent is removed under reduced pressure, leaving a solid. The solid is recrystallized thrice from water to provide white flakes, 2,3-dihydro-1'-cyclopropylcarbonylspiro[benzofuran-2,4'-piperidine], mp 111°-113° C.

reactant | cyclopropylcarbonyl chloride | 1.8 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 2,3-dihydrospiro[benzofuran-2,4'-piperidine] | 3.2 g | N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C12H15NO
reactant | water | 500 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-dihydro-1'-cyclopropylcarbonylspiro[benzofuran-2,4'-piperidine] | C1(CC1)C(=O)N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C16H19NO2
